US07662825B2
N-(5-Bromo-3-methoxy-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide
Prepared by the method of Example 1 (reaction performed at room temperature) using 5-bromo-3-methoxy-2-pyrazinamine (0.1 g) and 2,3-dichlorobenzenesulphonyl chloride (0.2 g). Yield 0.045 g.,

reactant | 5-bromo-3-methoxy-2-pyrazinamine | 0.1 g | BrC=1N=C(C(=NC1)N)OC | C5H6BrN3O
reactant | 2,3-dichlorobenzenesulphonyl chloride | 0.2 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | N-(5-Bromo-3-methoxy-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)OC | C11H8BrCl2N3O3S
